US06340678B1
To a solution of 60 mg of (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-(4-piperidyl)acetamide in 5 ml of dichloromethane were added 70 μl of a 40% aqueous solution of formaldehyde, 74 μl of acetic acid and 30 mg of sodium triacetoxy borohydride, followed by stirring at room temperature for six hours. To the reaction solution was added a saturated aqueous solution of sodium bicarbonate, followed by extracting with ethyl acetate. The organic layer was washed with a saturated aqueous solution of NaCl and dried over anhydrous magnesium sulfate, followed by evaporating the solvent therefrom. The residue was purified by silica gel column chromatography (eluting with chloroform) and crystallized from diethyl ether to give 53 mg of (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-(1methyl-4-piperidyl)acetamide as a colorless powder.

reactant | (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-(4-piperidyl)acetamide | 60 mg | FC\1(CCN(C2=C(/C1=C/C(=O)NC1CCNCC1)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C28H28F2N4O2S
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxy borohydride | 30 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | acetic acid | 74 μl | C(C)(=O)O | C2H4O2
product | (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-(1methyl-4-piperidyl)acetamide | 53 mg | FC\1(CCN(C2=C(/C1=C/C(=O)NC1CCN(CC1)C)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C29H30F2N4O2S
